US05451584
4-[4-(2-Methoxy-phenyl)-piperazin-1-yl]-N-methyl-2-phenyl-N-prop-2-ynyl-butyramide
The title compound was prepared from 4-[4-(2-methoxyphenyl)piperazin-1-yl]-2-phenylbutanoic acid (1.77 g, 5 mmole), triethylamine (1.518 g, 15 mmole), N,N-bis(2-oxo-3-oxazolidinyl)phosphoramidic chloride (1.527 g, 6 mmole), N-methylpropargylamine (0.415 g, 6 mmole) and methylene chloride (80 mL) in the manner described in Example 1, to yield 1.9 g of the title compound as the dihydrochloride, m.p. 197°-8° C.

reactant | 4-[4-(2-methoxyphenyl)piperazin-1-yl]-2-phenylbutanoic acid | 5 mmole, 1.77 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C(=O)O)C1=CC=CC=C1 | C21H26N2O3
reactant | triethylamine | 15 mmole, 1.518 g | C(C)N(CC)CC | C6H15N
reactant | N,N-bis(2-oxo-3-oxazolidinyl)phosphoramidic chloride | 6 mmole, 1.527 g | O=C1OCCN1N(P(=O)(Cl)Cl)N1C(OCC1)=O | C6H8Cl2N3O5P
reactant | N-methylpropargylamine | 6 mmole, 0.415 g | CNCC#C | C4H7N
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(2-Methoxy-phenyl)-piperazin-1-yl]-N-methyl-2-phenyl-N-prop-2-ynyl-butyramide | 1.9 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C(=O)N(CC#C)C)C1=CC=CC=C1 | C25H31N3O2
